US06664407B2
Preparation of N-methyl ferrocenylmethylamine (5)
A solution of ferrocenecarboxaldehyde (700 mg, 3.27 mmol) and methylamine (2.0M in THF) (5.0 ml, 10.0 mmol) in THF (25 ml) and methanol (30 ml) was stirred at room temperature for 15 h under a nitrogen atmosphere. Sodium borohydride (371 mg, 9.81 mmol) was added to the solution and it was stirred at room temperature for 1 h. The solvent was removed out under reduced pressure and the residue dissolved in chloroform. The chloroform was washed with water, dried over magnesium sulphate. The solvent was removed under reduced pressure to yield a brown oil (647 mg, 86%).

reactant | ferrocenecarboxaldehyde | 3.27 mmol, 700 mg | [C-]1(C=CC=C1)C=O.[CH-]1C=CC=C1.[Fe+2]
reactant | methylamine | 10.0 mmol, 2.0M, 5.0 ml | CN | CH5N
reactant | Sodium borohydride | 9.81 mmol, 371 mg | [BH4-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | methanol | 30 ml | CO | CH4O
product | N-methyl ferrocenylmethylamine | 647 mg, 86% | CNC[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C7H10N.C5H5.Fe/c1-8-6-7-4-2-3-5-7;1-2-4-5-3-1;/h2-5,8H,6H2,1H3;1-5H;/q2*-1;+2
